US05283165
A solution of 51 grams (0.39 mol) of dimethyl malonate, 30 grams of acetone, and 2.5 grams of zinc chloride in 50 mL of acetic anhydride was refluxed with stirring for 24 hours. The solution was poured into ice and water, then extracted with 200 mL of dichloromethane. The organic phase was washed 2×150 mL water, dried over sodium sulfate and concentrated to a brown oil. After two distillations the 41 gram fraction collected at 25°-34° C. (0.1 mm Hg) gave satisfactory analytical for dimethyl isopropylidenemalonate.

reactant | dimethyl malonate | 0.39 mol, 51 grams | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | acetone | 30 grams | CC(=O)C | C3H6O
reactant | water | O | H2O
solvent | acetic anhydride | 50 mL | C(C)(=O)OC(C)=O | C4H6O3
catalyst | zinc chloride | 2.5 grams | [Cl-].[Zn+2].[Cl-]
product | dimethyl isopropylidenemalonate | C(C)(C)=C(C(=O)OC)C(=O)OC | C8H12O4
